US04855295
0.2 g of 4-methoxymethyl-5-oxo-5,6,7,8-tetrahydro-betacarboline-3-carboxylic acid ethyl ester is refluxed in 10 ml of isopropanol with 0.1 ml of titanium tetraisopropylate for 1.5 hours under argon atmosphere. The crystals precipitated after cooling are sectioned off and rewashed with isopropanol. 0.135 g of 4-methoxymethyl-5-oxo-5,6,7,8 -tetrahydro-beta-carboline-3-carboxylic acid isopropyl ester with a melting point of 243°-245° C. is obtained.

reactant | 4-methoxymethyl-5-oxo-5,6,7,8-tetrahydro-betacarboline-3-carboxylic acid ethyl ester | 0.2 g | C(C)OC(=O)C=1N=CC=2NC=3CCCC(C3C2C1COC)=O | C16H18N2O4
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
catalyst | titanium tetraisopropylate | 0.1 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 4-methoxymethyl-5-oxo-5,6,7,8 -tetrahydro-beta-carboline-3-carboxylic acid isopropyl ester | 0.135 g | C(C)(C)OC(=O)C=1N=CC=2NC=3CCCC(C3C2C1COC)=O | C17H20N2O4
